US05488147
Example 6 - Preparation of 1,1-Bis(4-t-butylphenyl)heptane.
Into a 250 ml 3-neck round bottom flask equipped with a mechanical stirrer, thermometer, and inlet was charged, with agitation, 34 mL of nitromethane to which was added portionwise 17.8 grams (134 mmol, 1.7 eq) of aluminum chloride to form a solution with cooling such that the temperature did not exceed 40° C. This solution was added to a mixture of 20.0 grams (79.2 mmol, 1.0 eq) of 1,1-diphenylheptane and 22.8 grams (103 mmol, 1.3 eq) of 2,6-di-t-butyl-4-methylphenol in 56 mL of nitromethane at 15° C. over a period of 5 to 10 minutes. The mixture turned a dark opaque color. The reaction mixture was allowed to stir for 30 minutes at room temperature and was then poured into ice-water. The mixture was extracted with ether twice and the ether layer was concentrated in vacuo. Additional ether was added to the residue and concentrated followed by addition of toluene and concentration. This treatment was to insure removal of the nitromethane before washing with base. The dark oil was dissolved in ether and washed with approximately 400 mL of 1 M sodium hydroxide. The aqueous layer was less highly colored. The organic layer was washed with water and concentrated in vacuo. The residue was distilled in vacuo (1.5-2 mmHg). A forerun of 2,6-di-t-butyl-4-methylphenol was collected. Boiling point 75°-105° C. at 2 mm (Literature Boiling Point=265° C. at 760 mm). The second fraction gave the 15.0 grams product, (55% yield). Boiling point=195°-197° C. at 2 mm.

reactant | aluminum chloride | 134 mmol, 17.8 grams, 1.7 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,1-diphenylheptane | 79.2 mmol, 20.0 grams, 1.0 eq | C1(=CC=CC=C1)C(CCCCCC)C1=CC=CC=C1 | C19H24
reactant | 2,6-di-t-butyl-4-methylphenol | 103 mmol, 22.8 grams, 1.3 eq | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | nitromethane | 56 mL | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 34 mL | [N+](=O)([O-])C | CH3NO2
product | 1,1-Bis(4-t-butylphenyl)heptane | 15.0 grams, 55% yield | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCCC)C1=CC=C(C=C1)C(C)(C)C | C27H40
